US07344702B2
2,4-dimethoxy-5-nitro-benzaldehyde (135 mg, 0.638 mmol) and sodium methanethiolate (125 mg, 1.78 mmol) are dissolved in 4 ml of N,N-dimethylacetamide and heated at 80° C. for 26 h. The reaction mixture is diluted to 50 ml with water and extracted with dichloromethane. The aqueous layer is then acidified with 5% HCl and extracted again with dichloromethane. All of the organic layers are dried over Na2SO4, concentrated, and purified using silica gel chromatography (100% dichloromethane to 30% acetone in dichloromethane) to yield 2,4-dihydroxy-5-nitro-benzaldehyde.

reactant | 2,4-dimethoxy-5-nitro-benzaldehyde | 0.638 mmol, 135 mg | COC1=C(C=O)C=C(C(=C1)OC)[N+](=O)[O-] | C9H9NO5
reactant | sodium methanethiolate | 1.78 mmol, 125 mg | C[S-].[Na+]
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2,4-dihydroxy-5-nitro-benzaldehyde | OC1=C(C=O)C=C(C(=C1)O)[N+](=O)[O-] | C7H5NO5
